US06171664B2
240 g of ethyl 4-formylcyclohexanecarboxylate were dissolved in 2.4 l of THF at 10-15° C. under nitrogen, and 531 g of ethyltriphenylphosphonium bromide were added. 160 g of potassium tert-butoxide were introduced in portions into the resultant suspension over a period of 1.5 hours, the temperature being held at below 20° C. After the mixture had been stirred overnight, the mixture was hydrolyzed using water the next day and rendered slightly acidic using 2 N HCl. Conventional work-up gave ethyl 4-propenylcyclohexanecarboxylate as an E/Z isomer mixture.

reactant | ethyl 4-formylcyclohexanecarboxylate | 240 g | C(=O)C1CCC(CC1)C(=O)OCC | C10H16O3
reactant | potassium tert-butoxide | 160 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 2.4 l | C1CCOC1 | C4H8O
catalyst | ethyltriphenylphosphonium bromide | 531 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl 4-propenylcyclohexanecarboxylate | C(=CC)C1CCC(CC1)C(=O)OCC | C12H20O2
